US09422332B2
A solution of acetyl chloride (552 mg, 500 μL, 7.03 mmol, Eq: 74.3) in MeOH (2 mL) was added to a vial containing ((S)-1-{(S)-1-cyclohexyl-2-[(S)-1-(2,6-di fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinolin-2-yl]-2-oxo-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (58 mg, 94.7 μmol, Eq: 1.00). The mixture was stirred at RT for 1 h. The solvent was evaporated and the resulting solid was dissolved in MeCN (3 mL) and water (1 mL) and the solution lyophilized to give (S)-2-[(S)-2-cyclohexyl-2-((S)-2-methylamino-propionylamino)-acetyl]-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2,6-difluoro-phenyl)-amide hydrochloride (50 mg) as a white powder (50 mg), m/z=513 (M+H).

reactant | acetyl chloride | 7.03 mmol, 500 μL, 552 mg | C(C)(=O)Cl | C2H3ClO
reactant | ((S)-1-{(S)-1-cyclohexyl-2-[(S)-1-(2,6-di fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinolin-2-yl]-2-oxo-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 94.7 μmol, 58 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@H](C(=O)N1[C@@H](C2=CC=CC=C2CC1)C(NC1=C(C=CC=C1F)F)=O)C1CCCCC1)=O)=O | C33H42F2N4O5
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-2-[(S)-2-cyclohexyl-2-((S)-2-methylamino-propionylamino)-acetyl]-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2,6-difluoro-phenyl)-amide hydrochloride | 50 mg | Cl.FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CCC2=CC=CC=C12)C([C@@H](NC([C@H](C)NC)=O)C1CCCCC1)=O | InChI=1S/C28H34F2N4O3.ClH/c1-17(31-2)26(35)32-23(19-10-4-3-5-11-19)28(37)34-16-15-18-9-6-7-12-20(18)25(34)27(36)33-24-21(29)13-8-14-22(24)30;/h6-9,12-14,17,19,23,25,31H,3-5,10-11,15-16H2,1-2H3,(H,32,35)(H,33,36);1H/t17-,23-,25-;/m0./s1
